US04543952
In a 22 liter stirred reactor, 1.16 kilograms of p-hydroxy-benzoic acid (M.W. 138) in 4 liters of water are neutralized by the addition of 0.5 liter of 40% aqueous sodium hydroxide. The temperature is adjusted to 50° C. and over a period of one hour, 1200 milliliters of 4-bromobutyl acetate are slowly added. The temperature is then raised to 90° C.+10° C. and the hot reaction mixture kept at pH 10 by continuous titration with a 40% sodium hydroxide solution. When no change in pH is noted for a period of 45 minutes the reaction is considered complete, an additional liter of water is then added, and sufficient 40% sodium hydroxide solution to raise the pH to 11. While still hot, concentrated hydrochloric acid is added in large enough quantities to lower the pH to 1.2. The mixture is allowed to cool overnight while stirring and the precipitate collected on a filter. The precipitate is then thoroughly washed with water to remove excess acid until the wash has attained a pH of at least 5. The precipitate is then dried and dissolved in hot methanol (15% solution), and the solution filtered to remove any insolubles (usually about 6-7%). While the clear methanol solution is still hot, hot water is added to adjust the solvent ratio to 10:1 methanol/water, and set aside to let the product crystallize out overnight yielding p-(4-hydroxy-n-butoxy)benzoic acid having a melting point of 146°-148° C.

reactant | p-hydroxy-benzoic acid | 1.16 kilograms | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 0.5 liter | [OH-].[Na+]
reactant | 4-bromobutyl acetate | 1200 milliliters | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 4 liters | O | H2O
product | p-(4-hydroxy-n-butoxy)benzoic acid | OCCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
